2164-01-14 09:14:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   stg IV NSCLCa - here with SOB, hypoxemia
   being treated for COPD flare
   resp symptoms improving
   24 Hour Events:
 URINE CULTURE - At [**2164-1-13**] 11:11 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2164-1-13**] 11:19 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2164-1-13**] 09:40 PM
   Other medications:
   prednisone
   azithro
   nebs
   Changes to medical and family history:
   none
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-14**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 86 (78 - 99) bpm
   BP: 172/79(101) {135/56(77) - 177/114(120)} mmHg
   RR: 30 (22 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    390 mL
                                                                    196 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    270 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    130 mL
   Urine:
                                                                    130 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: 40% venti
   SpO2: 93%
   ABG: 7.45/30/99.[**Numeric Identifier 433**]/21/-1
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: moderate resp distress at rest
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout)
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   254 K/uL
   191 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.9 mEq/L
   23 mg/dL
   99 mEq/L
   133 mEq/L
   27.3 %
   40.3 K/uL
        [image002.jpg]
                             [**2164-1-13**]  07:23 PM
                             [**2164-1-14**]  03:14 AM
                             [**2164-1-14**]  06:43 AM
   WBC
   40.3
   Hct
   27.3
   Plt
   254
   Cr
   0.9
   TCO2
   22
   21
   Glucose
   191
   Other labs: PT / PTT / INR:16.6/24.9/1.5, Lactic Acid:2.0 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Fluid analysis / Other labs: 7.45/31/[**Age over 90 **] yesterday
   7.45/30/99
   Imaging: chest CT - emphysema, right hilar mass,RRR nodule, no obvious
   pna
   Assessment and Plan
 resp distress - appears obstructed - likely COPD flare triggered by
   viral resp tract infection, continue prednisone, nebs, start azithro,
   eval for viruses
 CANCER (MALIGNANT NEOPLASM), LUNG - no acute issues
   leukocytosis - improved, follow, CDiff pending
   HTN - continue ACEI, follow
   Goals of care need addressing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-1-14**] 08:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 36 minutes
   Patient is critically ill

2164-01-15 09:46:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   some improvement in dyspnea
   still receiving nebs every couple of hours
   24 Hour Events:
                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2164-1-14**] 08:00 AM
   Azithromycin - [**2164-1-14**] 12:20 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2164-1-14**] 08:48 PM
   Heparin Sodium (Prophylaxis) - [**2164-1-15**] 08:45 AM
   Other medications:
   nebs q 6
   prednisone 60
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-1-15**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.5
C (95.9
   HR: 99 (79 - 103) bpm
   BP: 129/69(83) {114/56(73) - 163/98(106)} mmHg
   RR: 27 (22 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,081 mL
                                                                    150 mL
   PO:
                                                                    340 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    741 mL
   Blood products:
   Total out:
                                                                    585 mL
                                                                    500 mL
   Urine:
                                                                    585 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   FiO2: 50%
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : less)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   379 K/uL
   119 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   26 mg/dL
   103 mEq/L
   135 mEq/L
   28.4 %
   52.5 K/uL
        [image002.jpg]
                             [**2164-1-13**]  07:23 PM
                             [**2164-1-14**]  03:14 AM
                             [**2164-1-14**]  06:43 AM
                             [**2164-1-15**]  03:43 AM
   WBC
   40.3
   52.5
   Hct
   27.3
   28.4
   Plt
   254
   379
   Cr
   0.9
   0.9
   TCO2
   22
   21
   Glucose
   191
   119
   Other labs: PT / PTT / INR:16.0/23.7/1.4, Differential-Neuts:88.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:2.0 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Microbiology: micro - neg viral screen, oral flora on culture
   Assessment and Plan
 resp distress - appears less obstructed - likely COPD flare triggered
   by viral resp tract infection, continue prednisone, nebs, azithro
 CANCER (MALIGNANT NEOPLASM), LUNG - no acute issues at this time
   leukocytosis - had improved, now back up, follow, CDiff pending
   HTN - continue ACEI, follow
   Goals of care need addressing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-1-14**] 08:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill